US04382934
To a suspension of 1-[3-(1-piperazinyl)propyl]isatin dihydrochloride (1.39 g) in methylene chloride (40 ml) was added bis(trimethylsilyl)acetamide (3.44 g), and the mixture was stirred for 10 minutes. After N,N-diphenylcarbamoyl chloride (1.16 g) was added thereto, the stirring was continued at the ambient temperature for 5 hours. The reaction mixture was poured into ice-water and the methylene chloride layer was separated, washed with water and then dried over anhydrous magnesium sulfate. After removal of the solvent, the residue was crystallized from diethyl ether to obtain N,N-diphenyl-4-[3-(isatin-1-yl)propyl]piperazine-1-carboxamide (0.62 g), mp. 163° to 164.5° C.

reactant | 1-[3-(1-piperazinyl)propyl]isatin dihydrochloride | 1.39 g | Cl.Cl.N1(CCNCC1)CCCN1C(=O)C(=O)C2=CC=CC=C12
reactant | bis(trimethylsilyl)acetamide | 3.44 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | N,N-diphenylcarbamoyl chloride | 1.16 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N,N-diphenyl-4-[3-(isatin-1-yl)propyl]piperazine-1-carboxamide | 0.62 g | C1(=CC=CC=C1)N(C(=O)N1CCN(CC1)CCCN1C(=O)C(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C28H28N4O3
